US06159904
6-Carboxy-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide
28 Grams (77 mmol) of 8-chloro-6-ethoxycarbonyl-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide was dissolved in 100 ml of ethanol, and 13.6 g (208 mmol) of a zinc powder was added. Further, a solution of 27 g (400 mmol) of sodium hydroxide in 50 ml of water and 50 ml of ethanol was added, and then the mixture was stirred under heat at 60° C. for 6 hours. After the completion of the reaction, an insoluble solid was removed by filtration, and an aqueous layer was washed with methylene chloride. The aqueous layer was acidified with a 5 wt % hydrochloric acid aqueous solution and extracted with ethyl acetate, and an organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 16.2 g (yield 69%) of the titled compound.

reactant | 8-chloro-6-ethoxycarbonyl-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide | 77 mmol | ClC=1C=C(C(=C2C3(CCS(C12)(=O)=O)OCCO3)C)C(=O)OCC | C15H17ClO6S
reactant | sodium hydroxide | 400 mmol, 27 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | zinc | 208 mmol, 13.6 g | [Zn] | Zn
product | 6-Carboxy-4,4-ethylenedioxy-5-methylthiochroman-1,1-dioxide | 16.2 g, yield 69% | C(=O)(O)C=1C(=C2C3(CCS(C2=CC1)(=O)=O)OCCO3)C | C13H14O6S
